US08809336B2
Sodium hydride (55%, 0.17 g, 4.0 mmol) was added in a single portion to a solution of (4,6-dichloropyrimidin-5-yl)amine (0.61 g, 3.72 mmol) and ethyl iodide (0.30 mL, 3.8 mmol) in dry DMF (3 mL) at room temperature. The suspension was stirred for 18 hours, then diluted with saturated aqueous ammonium chloride (5 mL) and water (20 mL). The mixture was extracted with diethyl ether (30 mL), and the extract was dried, filtered and concentrated. Flash column chromatography on silica, eluting with 10% ethyl actetate-hexanes, gave ethyl(4,6-dichloropyrimidin-5-yl)amine (0.321 g, 1.67 mmol, 45%). LC-MS (LCT2) m/z 192, 194 [M+H+], Rt 6.07 min.

reactant | Sodium hydride | 4.0 mmol, 0.17 g | [H-].[Na+]
reactant | (4,6-dichloropyrimidin-5-yl)amine | 3.72 mmol, 0.61 g | ClC1=NC=NC(=C1N)Cl | C4H3Cl2N3
reactant | ethyl iodide | 3.8 mmol, 0.30 mL | C(C)I | C2H5I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | water | 20 mL | O | H2O
product | ethyl(4,6-dichloropyrimidin-5-yl)amine | 1.67 mmol, 0.321 g, 45% | C(C)NC=1C(=NC=NC1Cl)Cl | C6H7Cl2N3
